Name:  ___.                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Optiray 350 / shellfish derived
 
Attending: ___.
 
Chief Complaint:
Transfer for wide complex tachycardia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with HIV on HAART, Afib on
coumadin, HTN, CKD, metastatic castration-resistant prostate
cancer s/p prostatectomy and radiation, now on C3D1 docetaxel
___ with bony metastases, who was admitted from ___ to inaptient ___ after presenting with shortness
of breath (77% on RA) and lower extremity edema, found to have
acute respiratory failure ___ multifocal pneumonia, who was 
noted
to have wide complex tachycardia started on amiodarone drip,
transferred to ___ cardiology service for further evaluation. 

Patient's hospitalization was notable for initial complaint of
dyspnea on exertion, cough and low grade fevers/chills for a few
weeks, with dizziness/lightheadedness when standing, poor
appetite, which he thought was also chemotherapy related. In the
ED, CT chest showed multilobar ground glass opacities with 
repeat
showing multifocal patchy opacities. Initially covered with 
broad
spectrum antibiotics with vancomycin, cefepime, azithromycin,
Bactrim, transitioned to Levofloxacin and Bactrim per ID
recommendations, switched back to cefepime, doxycycline and
Bactrim due to concern for QTc prolongation. Was also started on
voriconazole and caspofungin for positive sputum culture growing
___ and slightly elevated galactomannan. Beta Glucan swab
negative. Patient was treated for likely fungal infection (+/-
bacterial) vs chemotherapy related pulmonary toxicity. He had a
bronchoscopy ___ for further evaluation, cultures pending. 

He was incidentally noted to have a stable wide complex
tachycardia on ___. Cardiology was consulted who felt this was
likely slow ventricular tachycardia. The episode resolved 
without
intervention. He was bolused 150 mg IV amiodarone and started on
an amiodarone drip. He shortly reverted back to his baseline
narrow complex atrial fibrillation. On ___ he became 
tachycardic
again to 100, remained asymptomatic and HDS. Cardiology was
called and advised re-bolusing with 150 mg x1 and increasing his
drip to 1 mg/min (had just been decreased per protocol).
Recommended transfer for EP evaluation. Troponin was elevated to
0.016 with nonischemic EKG.

On the floor, patient is feeling alright. His shortness of 
breath
is better but he hasn't been out of bed much. He has
tremulousness of his voice which he attributes to his tongue
being dry. He denies chest pain, ___ swelling, palpitations,
abdominal pain, headaches. 
 
Past Medical History:
1. HIV
2. Hx of Prostate cancer in ___ sp radical prostatectomy at  
___, PSA went from 6 in ___ to 12 in ___, restarting Casodex 
 
3. HTN - on hyzaar and atenolol but only takes atenolol a few  
days a week  
4. Atrial fibrillation on Coumadin  
5. Depression  
6. GERD  
7. Hyperlipidemia  
 
PAST SURGICAL HISTORY:  
1. Tonsillectomy  
2. Pilonidal cyst removal  
3. Anal sphincter fistula/abscess surgery  
4. Radical prostatectomy w LN dissection (___)
5. Removal of multiple sebaceous cysts from scalp  
6. R index finger amputation  

 
Social History:
___
Family History:
Mother had CAD
Father had metastatic colon cancer
Brother has afib and prostatitis
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
VS: 98.7 PO 146 / 79 107 20 94 3L NC 
GENERAL: Well nourished, NAD. Oriented x3. Mood, affect
appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple.
CARDIAC: Irregular rhythm, slightly fast rate. Normal S1, S2. No
murmurs, rubs, or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
mildly labored with no accessory muscle use. Scattered ronchi 
and
wheezing.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
plenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
eripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.

DISCHARGE PHYSICAL EXAM:
========================
VITALS: T 97.4F, BP 149/82, HR 91, 94% on room air.
GENERAL: lying up in bed, NAD. Word finding difficulties,
somewhat garbled/stuttering speech.  
HEENT: Normocephalic atraumatic. Sclera anicteric. EOMI.
CARDIAC: Irregular rhythm, regular rate. Normal S1, S2. No
murmurs, rubs, or gallops.
LUNGS: Respiration improved, CTAB, no wheezes rales or rhonchi.
Minimal accessory muscle use noted with increased activity. 
ABDOMEN: Soft, non-tender, non-distended.   
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema. Does have peeling of skin b/l legs due to 
chemo.
NEURO: Moving all extremities with intention. Intention tremor
noted.   

 
Pertinent Results:
ADMISSION LABS:
===============
___ 05:56AM BLOOD WBC-7.1 RBC-2.48* Hgb-8.0* Hct-24.6* 
MCV-99* MCH-32.3* MCHC-32.5 RDW-16.9* RDWSD-61.3* Plt ___
___ 05:56AM BLOOD ___ PTT-29.7 ___
___ 05:56AM BLOOD Glucose-90 UreaN-18 Creat-1.1 Na-138 
K-4.0 Cl-98 HCO3-26 AnGap-14
___ 05:56AM BLOOD Albumin-3.2* Calcium-8.5 Phos-2.5* Mg-2.0
___ 05:56AM BLOOD ALT-19 AST-22 LD(LDH)-261* AlkPhos-78 
TotBili-0.2
___ 05:56AM BLOOD cTropnT-<0.01
___ 06:22AM BLOOD ___ pO2-33* pCO2-42 pH-7.43 
calTCO2-29 Base XS-2
___ 06:22AM BLOOD Lactate-1.2

PERTINENT LABS/MICRO/IMAGING:
============================
___ 05:56AM BLOOD  WBC-7.1 Lymph-17* Abs ___ CD3%-77 
Abs CD3-935 CD4%-39 Abs CD4-468 CD8%-38 Abs CD8-459 CD4/CD8-1.02
___ 06:50AM BLOOD HIV1 VL-NOT DETECT
___ 06:20AM BLOOD calTIBC-174* VitB12-510 Folate-14 
Hapto-250* Ferritn-545* TRF-134*

___ 1:50 pm Rapid Respiratory Viral Screen & Culture
      ADD-ON REQUESTED ___, 09:27AM ___. 

                            **FINAL REPORT ___

   Respiratory Viral Antigen Screen (Final ___: 
      Less than 60 columnar epithelial cells;. 
      Inadequate specimen for DFA detection of respiratory 
viruses.. 
      Interpret all negative DFA and/or culture results from 
this specimen
      with caution.. 
      Negative results should not be used to discontinue 
precautions.. 
      Recommend new sample be submitted for confirmation.. 
      Refer to respiratory viral culture and/or Influenza PCR 
(results
      listed under "OTHER" tab) for further information.. 
      Reported to and read back by ___ AT 10:51 ON 
___. 

   Respiratory Viral Culture (Final ___: 
      No respiratory viruses isolated. 
      Culture screened for Adenovirus, Influenza A & B, 
Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus.. 
      Detection of viruses other than those listed above will 
only be
      performed on specific request. Please call Virology at 
___
      within 1 week if additional testing is needed. 

CXR ___:
In comparison with the study of ___, there again are 
multiple areas of
increased opacification bilaterally, consistent with the 
diagnosis of
multifocal pneumonia made on the CT study of ___.
Continued low lung volumes with enlargement of the cardiac 
silhouette and
stable pulmonary vascular congestion.

DISCHARGE LABS:
===============
___ 06:43AM BLOOD WBC-7.3 RBC-2.80* Hgb-9.3* Hct-27.9* 
MCV-100* MCH-33.2* MCHC-33.3 RDW-16.2* RDWSD-59.3* Plt ___
___ 06:43AM BLOOD ___ PTT-32.2 ___
___ 06:43AM BLOOD Glucose-107* UreaN-26* Creat-0.9 Na-135 
K-3.5 Cl-92* HCO3-29 AnGap-14
___ 06:43AM BLOOD Calcium-9.1 Phos-2.8 Mg-2.0

 
Brief Hospital Course:
Patient was admitted from ___ to inpatient 
___ after presenting with shortness of breath, hypoxia (77% on 
RA), and lower extremity edema. Found to have acute respiratory 
failure ___ multifocal pneumonia. Was noted to have wide complex 
tachycardia started on amiodarone drip, transferred to ___ 
cardiology and found to have atrial fibrillation with aberrancy, 
transferred to medicine for further treatment of multifocal 
pneumonia.  

ACTIVE ISSUES:  
===============  
# Atrial fibrillation with aberrancy:
S/p amiodarone at ___ d/t concern for VT. Amiodarone
dc'd on admission after EP consult confirmed atrial fibrillation
with aberrancy. Subtherapeutic on warfarin (INR 1.7) on 
admission
with history of difficult to control INR. From patient history,
afib sounds very difficult to cardiovert (s/p multiple 
electrical
and chemical cardioversions) but concern for possible
cardioversion on amiodarone, so started on heparin bridge to
therapeutic INR. Following discussions with his outpatient 
oncologist and PCP switched to ___ given h/o difficult to 
control INR. Was switched from atenolol to metoprolol for rate 
control given considerable drug interactions of atenolol with 
antibiotics and antifungals. Uptitrated to metoprolol XL 50 mg 
qd on discharge. 

# Acute hypoxic respiratory failure:
# Multifocal Pneumonia:
Immunocompromised (HIV on HART, docetaxel for prostate cancer).
Presented with shortness of breath, cough, hypoxia, multifocal
patchy opacities, thought most likely atypical vs fungal vs
chemotherapy-associated toxicity. Flu negative. Positive sputum
culture growing ___ and slightly elevated galactomannan, 
Beta
Glucan swab negative. S/p Bronch ___ with cultures negative.
Sputum viral panel negative. Transferred on cefepime,
doxycycline, and Bactrim + voriconazole and caspofungin. Had
trialed steroids but not helpful. ID and pulmonary were 
consulted
at ___ reconsulted at ___. Per ID recs, Bactrim
d/ced w/ negative PCP and voriconazole + caspo d/ced as low
suspicion for fungal origin given patient CD4+. Patient 
completed regimen of doxycycline/Cefepime on ___. Patient was 
weaned off O2 throughout stay and was recommended to be 
discharged to rehab. Patient may still require O2 with 
ambulation, as he can desaturation into ___ on room air. Expect 
improvement with continued recovery from PNA, however if he does 
not improve may need further imaging in a few weeks. Of note, 
his baseline SpO2 outpatient was 96-99% resting on room air.

# HTN:
SBPs were on the higher side up to 150s-160s, possibly in part 
due to the atenolol switch to metoprolol. BP was monitored and a 
dose of amlodipine 2.5mg was administered. Further uptitration 
as outpatient is recommended. 

# Anemia:
Patient noted to have notable drop from baseline Hct/Hbg since
___, though is chronically anemic and on chemo. MCV was normal 
to
high, potentially expected with antiretroviral he is on. Though
LDH is elevated, TBili is normal and so hemolytic causes were 
deemed
unlikely. Nutritional causes were considered in setting of poor 
appetite. Was found to have low iron with elevated ferritin, low 
TIBC and transferrin. Folate and B12 normal. Likely c/w anemia 
of chronic disease.

CHRONIC ISSUES 
==============
# HIV:
VL not detected ___. CD4 - 468 on ___. His antivirals (Triumeq 
1 tab daily, Rilpivirine 25 mg) were continued. It was also 
determined there was no known interaction between rilpivirine 
and the ___.

# CKD:
Stable. Baseline Cr around 1.5 per records, on OSH admission 1.2 
and remained stable around 0.9 afterwards until discharge. 

# Metastatic prostate cancer:
# s/p prostatectomy and radiation therapy: 
Stable. On Docetaxel Q3W, has finished Cycle 3, Dr. ___ 
is
outpatient Heme/onc. Continued home prednisone and Lupron depot 
Q3M 

# Hyperlipidemia:
Stable. Continued home Lipitor.

# Depression:
Stable. Continued home Wellbutrin and imipramine. 

Transitional issues 
===================
[] Started ___ 5mg BID as switch from warfarin. 
[] Started metoprolol succinate 50 mg switched from atenolol. 
F/u rate control.
[] Needs an outpatient cardiologist to manage atrial 
fibrillation with aberrancy.
[] Completed 10-day course with doxycycline/Cefepime (last dose 
= ___ for multifocal PNA.
[] Started on amlodipine 2.5 qd given SBPs 150s-160s. Please 
monitor BP and uptitrate accordingly. 
[] Did not resume home potassium on discharge given stable 
potassium levels around 4.0 during hospital stay. Please obtain 
repeat BMP w/in 1 week to ensure stable potassium. 
[] Based on ___ records, resting SpO2 96-99% on room air. 
Here, resting SpO2 low ___ on room air with desaturation to 
___ with activity. When on 2L NC low ___ with ambulation. 
Please continue to provide oxygen to patient while ambulating 
and wean as tolerated. 
[] If SpO2 does not improve within a few weeks as 
pneumonia/atelectasis resolve, please repeat imaging CXR vs. CT.
[] Please provide patient with incentive spirometer to 
prevent/improve atelectasis.

Core issues
===========
# CODE STATUS:  Full 
# CONTACT: ___ ___ significant other

 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Triumeq (abacavir-dolutegravir-lamivud) 600-50-300 mg oral 
DAILY 
2. Atenolol 25 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. BuPROPion 300 mg PO DAILY 
5. Calcium 500 With D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. FoLIC Acid 1 mg PO DAILY 
8. Glutamine 1 gm PO DAILY 
9. Imipramine 25 mg PO QHS 
10. LevoCARNitine 500 mg PO DAILY 
11. Mesalamine (Rectal) ___AILY 
12. Fish Oil (Omega 3) 1000 mg PO DAILY 
13. PredniSONE 5 mg PO DAILY 
14. rilpivirine 25 mg oral DAILY 
15. Warfarin 2.5 mg PO 5X/WEEK (___) 
16. Warfarin 5 mg PO 2X/WEEK (___) 
17. Potassium Chloride 20 mEq PO BID 
18. Leuprolide Acetate Dose is Unknown  IM EVERY 3 MONTHS 

 
Discharge Medications:
1.  amLODIPine 2.5 mg PO DAILY  
2.  ___ 5 mg PO BID  
3.  Metoprolol Succinate XL 50 mg PO DAILY  
4.  Multivitamins W/minerals 1 TAB PO DAILY  
5.  Sarna Lotion 1 Appl TP QID:PRN dryness/itching  
6.  Atorvastatin 10 mg PO QPM  
7.  BuPROPion 300 mg PO DAILY  
8.  Calcium 500 With D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY  
9.  Fish Oil (Omega 3) 1000 mg PO DAILY  
10.  FoLIC Acid 1 mg PO DAILY  
11.  Glutamine 1 gm PO DAILY  
12.  Imipramine 25 mg PO QHS  
13.  LevoCARNitine 500 mg PO DAILY  
14.  Mesalamine (Rectal) ___AILY  
15.  PredniSONE 5 mg PO DAILY  
16.  rilpivirine 25 mg oral DAILY  
17.  Triumeq (abacavir-dolutegravir-lamivud) 600-50-300 mg oral 
DAILY  
18.  Vitamin D 1000 UNIT PO DAILY  
19. HELD- Leuprolide Acetate Dose is Unknown  IM EVERY 3 MONTHS 
Duration: 1 Dose  This medication was held. Do not restart 
Leuprolide Acetate until you seen your oncologist. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Multifocal pneumonia

SECONDARY DIAGNOSES
===================
Atrial fibrillation with aberrancy
Hypertension
Anemia
HIV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___

It was a pleasure taking care of you at ___.

Why you were in the hospital:
- You had worsening fatigue, shortness of breath, and leg 
swelling and found to have a lung infection.
- You were noted to an abnormal heart rhythm and were 
transferred to ___ cardiology and then the medicine service 
for further evaluation. 

What was done for you in the hospital:
- You received antibiotics to treat the infection in your lungs. 
You also received some nebulizer treatment to help your 
breathing. Throughout your stay you received oxygen and were 
weaned off as you recovered.
- The heart rhythm was found to be atrial fibrillation, which 
you have had chronically. 
- You received an echocardiogram to look at your heart because 
of your abnormal heart rhythm.
- You were switched to a different heart rate control medication 
(metoprolol) from your previous medication (atenolol).
- You were switched to a different blood thinner (___) from 
your previous medication (warfarin) to better prevent your risk 
of strokes from your heart rhythm.

What you should do after you leave the hospital:
- Please take your medications as detailed in the discharge 
papers. If you have questions about which medications to take, 
please contact your regular doctor to discuss.
- Please go to see your primary care doctor as detailed in 
discharge papers. Please also visit a cardiologist for follow-up 
of your arrhythmia, and your usual oncologist.
- Please monitor for worsening symptoms. If you do not feel like 
you are getting better or have any other concerns, please call 
your doctor to discuss or return to the emergency room.

We wish you the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___